US04028374
6,7-Dichloro-2-[3-(p-chlorophenyl)ureido]-4-thiocyanatobenzothiazole
p-Chlorophenyl isocyanate (15.3 g., 0.10 mole) was added in portions to a solution of 27.6 g. (0.10 mole) of 2-amino-6,7-dichloro-4-thiocyanatobenzothiazole in 300 ml. of dimethylformamide. The solution was heated at 120° with stirring for 5 hours and then cooled at 0° overnight. The solid was collected by filtration to give 22 g. (51%) of product. Recrystallization from ethanol gave an analytical sample, m.p. 238°-239° .

reactant | p-Chlorophenyl isocyanate | 0.10 mole, 15.3 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
reactant | 2-amino-6,7-dichloro-4-thiocyanatobenzothiazole | 0.10 mole | NC=1SC2=C(N1)C(=CC(=C2Cl)Cl)SC#N | C8H3Cl2N3S2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 6,7-Dichloro-2-[3-(p-chlorophenyl)ureido]-4-thiocyanatobenzothiazole | ClC1=C(C2=C(N=C(S2)NC(=O)NC2=CC=C(C=C2)Cl)C(=C1)SC#N)Cl | C15H7Cl3N4OS2
